US07342014B2
Triethylamine (1.25 ml) and diphenylphosphoryl azide (1.55 ml) were added to a suspension of 5-chlorothiophene-2-carboxylic acid (0.99 g) in toluene (20 ml), and the mixture was stirred at 80° C. for 1 hour. After the reaction mixture was cooled to room temperature, tert-butanol (2 ml) was added, and the mixture was heated under reflux for 19 hours. The reaction mixture was concentrated under reduced pressure, and methylene chloride (200 ml) was added to the resultant residue. The resultant mixture was successively washed with distilled water, a 10% aqueous solution of citric acid, distilled water, a saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to column chromatography on silica gel (hexane:ethyl acetate=4:1) to obtain tert-butyl 5-chloro-2-thienylcarbamate (1.05 g).

reactant | Triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.55 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 5-chlorothiophene-2-carboxylic acid | 0.99 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | tert-butanol | 2 ml | C(C)(C)(C)O | C4H10O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 5-chloro-2-thienylcarbamate | 1.05 g | ClC1=CC=C(S1)NC(OC(C)(C)C)=O | C9H12ClNO2S
